US06790846B2
b) 2-(4-Fluorophenyl)-3-oxo-3-(2-methylsulfanyl-pyrimidin-4-yl)-propionic Acid Methyl Ester
Using the procedure from Example 1b set forth above, substitute 2-(4-fluorophenyl)-3-hydroxy-3-(2-methylsulfanyl-pyrimidin-4-yl)-propionic acid methyl ester for 2-(4-fluorophenyl)-3-hydroxy-3-pyridin-4-yl-propionic acid methyl ester to produce the title compound.

reactant | 2-(4-fluorophenyl)-3-hydroxy-3-(2-methylsulfanyl-pyrimidin-4-yl)-propionic acid methyl ester | COC(C(C(C1=NC(=NC=C1)SC)O)C1=CC=C(C=C1)F)=O | C15H15FN2O3S
reactant | 2-(4-fluorophenyl)-3-hydroxy-3-pyridin-4-yl-propionic acid methyl ester | COC(C(C(C1=CC=NC=C1)O)C1=CC=C(C=C1)F)=O | C15H14FNO3
product | 2-(4-Fluorophenyl)-3-oxo-3-(2-methylsulfanyl-pyrimidin-4-yl)-propionic Acid Methyl Ester | COC(C(C(C1=NC(=NC=C1)SC)=O)C1=CC=C(C=C1)F)=O | C15H13FN2O3S
